US07378418B2
Preparation of (R)-7,8-bis(4-chlorophenyl)-2-((5-oxopyrrolidin-2-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The title compound was prepared using 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (50 mg, 0.14 mmol), prepared as described in Example 1, Ph3P (110 mg, 0.42 mmol) and (R)-5-(hydroxymethyl)pyrrolidin-2-one (17 mg, 0.14 mmol) in THF (1.0 mL) and by following the procedure described in Example 2. The title compound, (R)-7,8-bis(4-chlorophenyl)-2-((5-oxopyrrolidin-2-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (38.5 mg, 85%) was obtained as yellow powder. MS M+H=454; 1H NMR (CDCl3) δ 8.15 (1H, s), 7.24-7.36 (6H, m), 7.09 (2H, d, J=10.0 Hz), 6.59 (1H, s), 4.17-4.20 (1H, m), 4.03-4.10 (2H, m), 2.25-2.35 (3H, m), 1.92-2.02 (1H, m).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | Ph3P | 0.42 mmol, 110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (R)-5-(hydroxymethyl)pyrrolidin-2-one | 0.14 mmol, 17 mg | OC[C@H]1CCC(N1)=O | C5H9NO2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (R)-7,8-bis(4-chlorophenyl)-2-((5-oxopyrrolidin-2-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 38.5 mg, 85% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C[C@@H]2NC(CC2)=O)=O)C2=CC=C(C=C2)Cl | C22H17Cl2N5O2
